US06331640B1
A mixture of 3-amino-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-alanine on Wang resin (2 g), thiophene-2-carboxylic acid (1.41 g, 11.0 mmol), HOAT (1.50 g, 11.0 mmol) and diisopropylcarbodiimide (1.68 mL, 10.7 mmol) in N-methylpyrrolidinone (20 mL) was shaken for 3 h and then washed with dichloromethane and methanol to give N-[(9H-fluoren-9-ylmethoxy)carbonyl]-3-(thiophene-2-carbonyl)amino-L-alanine on Wang resin. The Fmoc group was cleaved by treatment with 25% piperidine in N-methylpyrrolidinone, followed by shaking for 1 h. The resin was washed with dichloromethane and methanol to give 3-(thiophene-2-carbonyl)amino-L-alanine on Wang resin.

reactant | 3-amino-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-alanine | NC[C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C18H18N2O4
reactant | thiophene-2-carboxylic acid | 11.0 mmol, 1.41 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | HOAT | 11.0 mmol, 1.50 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | diisopropylcarbodiimide | 10.7 mmol, 1.68 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N-methylpyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | N-[(9H-fluoren-9-ylmethoxy)carbonyl]-3-(thiophene-2-carbonyl)amino-L-alanine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CNC(=O)C=1SC=CC1)C(=O)O | C23H20N2O5S
